* source DASHA
E_U1         OUT_HIGHPASS 0 VALUE {LIMIT(V(N00406,N00302)*1E6,-15V,+15V)} _U1
+  N00406 N00302 1G

E_U2         OUT_BANDPASS 0 VALUE {LIMIT(V(N00438,N00485)*1E6,-15V,+15V)} _U2
+  N00438 N00485 1G

E_U3         OUT_LOWPASS 0 VALUE {LIMIT(V(N00516,N00369)*1E6,-15V,+15V)} _U3
+  N00516 N00369 1G

R_R1         IN N00302  {R1} TC=0,0 
R_R2         0 N00406  {R1} TC=0,0 
R_R3         0 N00438  {R1} TC=0,0 
R_R4         OUT_HIGHPASS N00485  {R1} TC=0,0 
R_R5         N00302 OUT_HIGHPASS  {R1} TC=0,0 
R_R6         N00485 OUT_BANDPASS  1Meg TC=0,0 
R_R7         OUT_BANDPASS N00369  {R1} TC=0,0 
R_R8         0 N00516  {R1} TC=0,0 
R_R9         OUT_LOWPASS N00369  1Meg TC=0,0 
R_R10         OUT_LOWPASS N00302  {R1} TC=0,0 
R_R11         OUT_BANDPASS N00406  {R2} TC=0,0 
C_C1         N00485 OUT_BANDPASS  {C}  TC=0,0 
C_C2         N00369 OUT_LOWPASS  {C}  TC=0,0 
V_V1         IN 0 DC 1 AC 1 
.PARAM  r1=1.718k r2=86.702k r3=1 c=3n
